US05294612
To a solution of sodium hydroxide (1.2 g, 30 mmol) in water (50 ml) in an ice-bath was added 30% hydrogen peroxide (3.3 ml, 29 mmol). The reaction mixture was stirred for 5 minutes then 1-(2-hydroxycyclopentyl)-3-methyl-5-amino-1H-pyrazole-4-carbonitrile (2.5 g, 12 mmol) was added. The reaction mixture was stirred in an ice-bath for 5 hours, additional 30% hydrogen peroxide (1.5 ml) was added and stirring was continued for 2 hours. Acetic acid (2 ml) was added to the reaction mixture, all but approximately 25 ml of the solvent was removed in vacuo and the resulting solid was collected by filtration and washed with water. The solid was air dried to afford 2.4 g (90%) of 1-(2-hydroxycyclopentyl)-3-methyl-5-amino-1H-pyrazole-4-carboxamide as a white solid, m.p. 120°-124° C. (dec.).

reactant | sodium hydroxide | 30 mmol, 1.2 g | [OH-].[Na+]
reactant | hydrogen peroxide | 29 mmol, 3.3 ml | OO | H2O2
reactant | 1-(2-hydroxycyclopentyl)-3-methyl-5-amino-1H-pyrazole-4-carbonitrile | 12 mmol, 2.5 g | OC1C(CCC1)N1N=C(C(=C1N)C#N)C | C10H14N4O
reactant | hydrogen peroxide | 1.5 ml | OO | H2O2
reactant | Acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 1-(2-hydroxycyclopentyl)-3-methyl-5-amino-1H-pyrazole-4-carboxamide | 2.4 g, 90% | OC1C(CCC1)N1N=C(C(=C1N)C(=O)N)C | C10H16N4O2
